US04297513
4-(2-Dimethylaminoethyl-mercapto)-benzophenone
12.85 g (0.064 mol) of 4-chlorobenzophenone, 13.6 g (0.13 mol) of 2-dimethylaminoethanethiol and 27.6 g (0.2 mol) of potassium carbonate in 100 ml of dimethylacetamide are kept at 100° C. for 12 hours, under N2 gas and with stirring. After cooling, the reaction mixture is poured into 200 ml of water. The oil which separates out is taken up in ether. The crude product is purified by means of hydrochloric acid extract and a bulb tube distillation (bath 200°-220° C./0.01 mm Hg). 10.2 g (59%) of product in the form of an oil are obtained.

reactant | 4-chlorobenzophenone | 0.064 mol, 12.85 g | ClC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H9ClO
reactant | 2-dimethylaminoethanethiol | 0.13 mol, 13.6 g | CN(CCS)C | C4H11NS
reactant | potassium carbonate | 0.2 mol, 27.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 200 ml | O | H2O
solvent | dimethylacetamide | 100 ml | CC(=O)N(C)C | C4H9NO
solvent | ether | CCOCC | C4H10O
product | 4-(2-Dimethylaminoethyl-mercapto)-benzophenone | 10.2 g, 59% | CN(CCSC1=CC=C(C(=O)C2=CC=CC=C2)C=C1)C | C17H19NOS
